US07977477B2
A mixture of 3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (50 mg, 0.19 mmol), 2,4 difluorophenyl isocyanate (31.4 mg, 0.20 mmol) and Et3N (0.027 ml) suspended in a mixture of DMF and EtOH (5 ml) was stirred at 70° C. for 1 h and then reduced in vacuo. The residue was purified by prep HPLC to give 1-(2,6-difluoro-phenyl)-3-[3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-urea as a white solid (11 mg) (LC/MS: Rt 2.10, [M+H]+ 415).

reactant | 3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.19 mmol, 50 mg | COC1=CC2=C(NC(=N2)C2=NNC=C2N)C=C1OC | C12H13N5O2
reactant | 2,4 difluorophenyl isocyanate | 0.20 mmol, 31.4 mg | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | Et3N | 0.027 ml | CCN(CC)CC | C6H15N
reactant | DMF | CN(C)C=O | C3H7NO
solvent | EtOH | 5 ml | CCO | C2H6O
product | 1-(2,6-difluoro-phenyl)-3-[3-(5,6-dimethoxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-urea | 11 mg | FC1=C(C(=CC=C1)F)NC(=O)NC=1C(=NNC1)C1=NC2=C(N1)C=C(C(=C2)OC)OC | C19H16F2N6O3
